********************
* Version 1.1.0a
*$
.SUBCKT BFR92/MOT 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XBFR92
.ENDS
*$
********************
.SUBCKT XBFR921 2 3 
CBPAD 1 3 1E-13 
CEPAD 2 3 1E-13 
Q1 1 2 3 DBFR92
.ENDS
*$
********************
.MODEL DBFR92 NPN 
+ IS = 4.163E-16 
+ BF = 92 
+ NF = 0.9964 
+ VAF = 40 
+ IKF = 0.65 
+ ISE = 1.216E-14 
+ NE = 1.658 
+ BR = 6.355 
+ NR = 0.9843 
+ VAR = 2.6 
+ IKR = 0.034 
+ ISC = 2.469E-16 
+ NC = 1.1 
+ RB = 23 
+ IRB = 1E-05 
+ RBM = 23 
+ RE = 0.55 
+ RC = 10 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9E-13 
+ VJE = 0.864 
+ MJE = 0.383 
+ CJC = 6.2E-13 
+ VJC = 0.472 
+ MJC = 0.228 
+ XCJC = 0.1 
+ TF = 1.7E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 0.5 
+ PTF = 40 
+ TR = 1E-09 
+ FC = 0.9 
*$
*
********************
* Version 1.1.0a
.SUBCKT BFR93/MOT 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XBFR93
.ENDS 
*$
********************
.SUBCKT XBFR93 1 2 3 
CBPAD 1 3 1.1E-13 
CEPAD 2 3 1.1E-13 
Q1 1 2 3 DBFR93 
.ENDS
*$
********************
.MODEL DBFR93 NPN 
+ IS = 4.499E-16 
+ BF = 100 
+ NF = 0.9861 
+ VAF = 36 
+ IKF = 3 
+ ISE = 7.014E-14 
+ NE = 1.955 
+ BR = 11.95 
+ NR = 0.985 
+ VAR = 2.8 
+ IKR = 0.02 
+ ISC = 9.97E-16 
+ NC = 1.1 
+ RB = 10 
+ IRB = 1E-05 
+ RBM = 10 
+ RE = 0.48 
+ RC = 4 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.72E-12 
+ VJE = 0.88 
+ MJE = 0.37 
+ CJC = 1.2E-12 
+ VJC = 0.553 
+ MJC = 0.297 
+ XCJC = 0.25 
+ TF = 1.6E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 0.9 
+ PTF = 49 
+ TR = 1E-09 
+ FC = 0.9 
*
*$
********************
* Version 1.1.0a
.SUBCKT MMBR5031 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR5031
.ENDS
*$
********************
.SUBCKT XMBR5031 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR5031 
.ENDS
*$
********************
.MODEL DMBR5031 NPN 
+ IS = 1.047E-16 
+ BF = 64 
+ NF = 0.9751 
+ VAF = 52 
+ IKF = 0.13 
+ ISE = 1.467E-14 
+ NE = 1.929 
+ BR = 4.765 
+ NR = 0.9705 
+ VAR = 8 
+ IKR = 0.005 
+ ISC = 3.754E-16 
+ NC = 1.1 
+ RB = 3.2 
+ IRB = 8E-05 
+ RBM = 3.2 
+ RE = 0.5 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.426E-12 
+ VJE = 0.7247 
+ MJE = 0.276 
+ CJC = 1.024E-12 
+ VJC = 0.8495 
+ MJC = 0.38 
+ XCJC = 0.34 
+ TF = 9.2E-11 
+ XTF = 500 
+ VTF = 0.8 
+ ITF = 1.1 
+ PTF = 18 
+ TR = 1E-09 
+ FC = 0.95 
*$
*
********************
* Version 1.1.0a
.SUBCKT MMBR911 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR911
.ENDS
*$
********************
.SUBCKT XMBR911 1 2 3 
CBPAD 1 3 6E-14 
CEPAD 2 3 6E-14 
Q1 1 2 3 DMBR911 
.ENDS
*$
********************
.MODEL DMBR911 NPN 
+ IS = 1.359E-15 
+ BF = 170 
+ NF = 0.9957 
+ VAF = 37 
+ IKF = 1.8 
+ ISE = 5.183E-14 
+ NE = 1.904 
+ BR = 13.1 
+ NR = 0.9943 
+ VAR = 2.1 
+ IKR = 0.062 
+ ISC = 1.23E-15 
+ NC = 1.246 
+ RB = 14 
+ IRB = 1E-05 
+ RBM = 14 
+ RE = 0.4 
+ RC = 3 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.147E-12 
+ VJE = 1.036 
+ MJE = 0.5483 
+ CJC = 1.1E-12 
+ VJC = 0.548 
+ MJC = 0.3024 
+ XCJC = 0.11 
+ TF = 1.4E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 1.1 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.93 
*
*$
*
********************
* Version 1.0.1a
.SUBCKT MRF5211  100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.4E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.4E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.4E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.9E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF5211 
.ENDS
*$
********************
.SUBCKT XMRF5211 100 200 300 
CEPAD 300 100 2.4E-13 
CBPAD 200 100 2.4E-13 
Q1 100 200 300 DMRF5211 
.ENDS
*$
********************
.MODEL DMRF5211 PNP 
+ IS = 1.755E-15 
+ BF = 107 
+ NF = 1.004 
+ VAF = 15 
+ IKF = 0.13 
+ ISE = 2.178E-13 
+ NE = 1.51 
+ BR = 47 
+ NR = 0.9993 
+ VAR = 3 
+ IKR = 0.0038 
+ ISC = 4.18E-15 
+ NC = 1.283 
+ RB = 1 
+ IRB = 1.2E-05 
+ RBM = 0.3 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.83 
+ MJE = 0.38 
+ CJC = 1.7E-12 
+ VJC = 0.712 
+ MJC = 0.425 
+ XCJC = 0.5 
+ TF = 4.8E-11 
+ XTF = 9.936 
+ VTF = 0.8 
+ ITF = 0.2 
+ PTF = 10 
+ TR = 1.0E-09 
+ FC = 0.9 
*$
*
********************
* Version 1.1.0a
.SUBCKT MRF927 100 200 300 
LCL 100 199 2.5E-10 
LBL 200 201 2.4E-10 
LBB 201 299 6E-10 
LEL 300 301 2.4E-10 
LEB 301 399 6E-10 
CCB 201 199 4E-14 
CCE 199 301 2.8E-13 
CBE 201 301 1.4E-13 
X1 199 299 399 XMRF927
.ENDS
*$
********************
.SUBCKT XMRF927 1 2 3 
CBPAD 2 1 2E-14 
CEPAD 1 3 4E-14 
Q1 1 2 3 DMRF927 
.ENDS
*$
********************
.MODEL DMRF927 NPN 
+ IS = 1.871E-16 
+ BF = 133 
+ NF = 0.9958 
+ VAF = 40 
+ IKF = 0.07 
+ ISE = 5.393E-12 
+ NE = 4.933 
+ BR = 17 
+ NR = 0.9929 
+ VAR = 2.6 
+ IKR = 0.018 
+ ISC = 2.892E-17 
+ NC = 1.049 
+ RB = 31 
+ IRB = 8E-05 
+ RBM = 31 
+ RE = 3.3 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.8E-13 
+ VJE = 0.884 
+ MJE = 0.318 
+ CJC = 2.9E-13 
+ VJC = 0.424 
+ MJC = 0.108 
+ XCJC = 0.2 
+ TF = 1.3E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 0.35 
+ PTF = 50 
+ TR = 2.38E-09 
+ FC = 0.9 
*$
*
********************
* Version 1.1.0a
.SUBCKT MRF949 100 200 300 
LCL 100 199 4.6E-10 
LBL 200 201 1.7E-10 
LBB 201 299 6.2E-10 
LEL 300 301 1.7E-10 
LEB 301 399 6.2E-10 
CCB 201 199 1.6E-13 
CCE 199 301 2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF949 
.ENDS
*$
********************
.SUBCKT XMRF949 1 2 3 
CBPAD 1 3 8E-14 
CEPAD 2 3 1.6E-13 
Q1 1 2 3 DMRF949 
.ENDS
*$
*******************
.MODEL DMRF949 NPN 
+ IS = 4.598E-16 
+ BF = 175 
+ NF = 0.9904 
+ VAF = 22 
+ IKF = 0.8 
+ ISE = 1.548E-14 
+ NE = 1.703 
+ BR = 76.1 
+ NR = 0.9952 
+ VAR = 2.1 
+ IKR = 0.02059 
+ ISC = 3.395E-16 
+ NC = 1.13 
+ RB = 8 
+ IRB = 8E-05 
+ RBM = 3 
+ RE = 0.45 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.7E-13 
+ VJE = 0.905 
+ MJE = 0.389 
+ CJC = 3.6E-13 
+ VJC = 0.4907 
+ MJC = 0.2198 
+ XCJC = 0.43 
+ TF = 1E-11 
+ XTF = 50 
+ VTF = 1.2 
+ ITF = 0.32 
+ PTF = 32 
+ TR = 1E-09 
+ FC = 0.9 
*$
*
********************
* Version 1.0.0a
.SUBCKT MRF8372 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.3E-10 
LE1 300 18 9.1E-11 
CB1 14 18 2.4E-13 
CC1 10 18 2.4E-13 
CC2 9 17 2.4E-13 
CC3 8 16 2.4E-13 
LB4 12 11 1.3E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 9.1E-11 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.3E-10 
LB3 13 12 1.3E-10 
CB2 13 17 2.4E-13 
CB3 12 16 2.4E-13 
LE2 18 17 9.1E-11 
LE3 17 16 9.1E-11 
X1 8 5 6 XRF8372
.ENDS
*$
********************
.SUBCKT XRF8372 1 2 3 
CBPAD 1 3 2.2E-13 
CEPAD 2 3 2.2E-13 
Q1 1 2 3 DRF8372 
.ENDS
*$
********************
.MODEL DRF8372 NPN 
+ IS = 2.348E-15 
+ BF = 106 
+ NF = 0.9891 
+ VAF = 37 
+ IKF = 30 
+ ISE = 1.701E-14 
+ NE = 1.585 
+ BR = 56 
+ NR = 0.9928 
+ VAR = 3.8 
+ IKR = 0.2 
+ ISC = 3.678E-15 
+ NC = 1.096 
+ RB = 2 
+ IRB = 8E-05 
+ RBM = 1 
+ RE = 0.85 
+ RC = 1.2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.254E-12 
+ VJE = 0.8789 
+ MJE = 0.6388 
+ CJC = 4.08E-12 
+ VJC = 0.608 
+ MJC = 0.3829 
+ XCJC = 0.33 
+ TF = 1.9E-11 
+ XTF = 500 
+ VTF = 5.207 
+ ITF = 4.868 
+ PTF = 48 
+ TR = 1E-09 
+ FC = 0.9058
*$
*
********************
* Version 1.1.0a
.SUBCKT MRF917 100 200 300 
LCL 100 199 4.4E-10 
LBL 200 201 2.6E-10 
LBB 201 299 7.5E-10 
LEL 300 301 2.6E-10 
LEB 301 399 7.5E-10 
CCB 201 199 8E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF917
.ENDS
*$
********************
.SUBCKT XMRF917 1 2 3 
CBPAD 1 3 8E-14 
CEPAD 2 3 8E-14 
Q1 1 2 3 DMRF917
.ENDS
*$
*******************
.MODEL DMRF917 NPN 
+ IS = 9.555E-16 
+ BF = 92 
+ NF = 0.9989 
+ VAF = 30 
+ IKF = 0.7 
+ ISE = 8.145E-14 
+ NE = 1.916 
+ BR = 15.5 
+ NR = 0.9911 
+ VAR = 3.3 
+ IKR = 0.021 
+ ISC = 7.388E-16 
+ NC = 1.103 
+ RB = 12 
+ IRB = 0.001 
+ RBM = 12 
+ RE = 2.2 
+ RC = 4 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.5E-12 
+ VJE = 0.9402 
+ MJE = 0.4392 
+ CJC = 1.1E-12 
+ VJC = 0.5411 
+ MJC = 0.2986 
+ XCJC = 0.27 
+ TF = 1.5E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 1 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.85 
*$
*
********************
* Version 1.1.0a
.SUBCKT MMBR920 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR920 
.ENDS
*$
********************
.SUBCKT XMBR920 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR920 
.ENDS
*$
********************
.MODEL DMBR920 NPN 
+ IS = 6.04E-16 
+ BF = 84 
+ NF = 0.9956 
+ VAF = 26 
+ IKF = 0.29 
+ ISE = 1.41E-14 
+ NE = 1.662 
+ BR = 32 
+ NR = 0.995 
+ VAR = 3.8 
+ IKR = 0.013 
+ ISC = 1.713E-16 
+ NC = 1.053 
+ RB = 21 
+ IRB = 8E-05 
+ RBM = 21 
+ RE = 0.35 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.28E-12 
+ VJE = 0.987 
+ MJE = 0.47 
+ CJC = 6.624E-13 
+ VJC = 0.2 
+ MJC = 0.2525 
+ XCJC = 0.35 
+ TF = 2.1E-11 
+ XTF = 500 
+ VTF = 1.2 
+ ITF = 1 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.95 
*















*$
